US06706757B2
Preparation of N-(2-{[(3-Hydroxypropyl)amino]methyl}-3,4-dihydro-2H-chromen-7-yl)naphthalene-2-sulfonamide
A solution of (7-amino-3,4-dihydro-2H-chromen-2-yl)methanol (25 mg, 140 μmol) in pyridine is treated with 2-naphthalenesulfonylchloride (70 mg, 308 μmol) at ambient temperature for 1 h, treated with 3-amino-1-propanol (3 mmol, 0.23 mL), heated at 80° C. for 3 h, diluted with water and extracted with ethyl acetate. The extracts are combined, dried over Na2SO4 and concentrated in vacuo. The resultant residue is purified by reverse phase preparative HPLC to give the title product, M+H 427, retention time 7.92 min.

reactant | (7-amino-3,4-dihydro-2H-chromen-2-yl)methanol | 140 μmol, 25 mg | NC1=CC=C2CCC(OC2=C1)CO | C10H13NO2
reactant | 2-naphthalenesulfonylchloride | 308 μmol, 70 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | 3-amino-1-propanol | 3 mmol, 0.23 mL | NCCCO | C3H9NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | N-(2-{[(3-Hydroxypropyl)amino]methyl}-3,4-dihydro-2H-chromen-7-yl)naphthalene-2-sulfonamide | OCCCNCC1OC2=CC(=CC=C2CC1)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C23H26N2O4S
